### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Acyclic): characterise maximal acyclic subgraphs

### PR DESCRIPTION
**Pull request by thomaskwaring**
We characterise subgraphs `H ≤ G` which are maximal among acyclic subgraphs of `G` as those for which `H.Reachable = G.Reachable`. We also prove that if  `x` and `y` are not reachable in `G`, then `G ⊔ fromEdgeSet {s(x,y)}` is acyclic iff `G` is.

---

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -361,6 +361,113 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
   obtain ⟨T, hTG, hmin⟩ := {H : SimpleGraph V | H.Connected}.toFinite.exists_le_minimal h
   exact ⟨T, hTG, isTree_of_minimal_connected hmin⟩
 
+/--
+Adding an edge to an acyclic graph preserves acyclicity if there endpoints are not reachable.
+-/
+theorem IsAcyclic.add_edge_acyclic {G : SimpleGraph V} (hG : IsAcyclic G) (x y : V)
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This can be upgraded to an iff, right?

Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Yes I think so, though you'd need the extra assumption that `x` and `y` aren't adjacent in `G` for the converse, so maybe that should be a separate result?

Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Okay, the (somewhat convoluted) converse I have is
```
theorem SimpleGraph.adj_or_not_reachable_of_add_edge_isAcyclic {V : Type*} {G : SimpleGraph V} (x y : V) (hneq : x ≠ y)
    (h : (G ⊔ fromEdgeSet {s(x,y)}).IsAcyclic) : G.Adj x y ∨ ¬ G.Reachable x y
```
which I'm not sure is particularly interesting (though happy to add it in some form if you disagree).

Comment (ocfnash) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: The version I had in mind was:
```lean
theorem isACyclic_add_edge_iff_of_not_reachable
    {G : SimpleGraph V} (x y : V) (hxy : ¬ G.Reachable x y) :
    (G ⊔ fromEdgeSet {s(x,y)}).IsAcyclic ↔ IsAcyclic G := by
  refine ⟨fun h ↦ h.anti le_sup_left, fun hG ↦ ?_⟩
  -- Your proof fits here
```

Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Oh I see, nice thanks

-awaiting-author

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean [hunk 2]
```diff
@@ -197,6 +197,10 @@ theorem Preconnected.map {G : SimpleGraph V} {H : SimpleGraph V'} (f : G →g H)
 protected lemma Preconnected.mono {G G' : SimpleGraph V} (h : G ≤ G') (hG : G.Preconnected) :
     G'.Preconnected := fun u v => (hG u v).mono h
 
+lemma preconnected_iff_reachable_eq_top : G.Preconnected ↔ G.Reachable = ⊤ := by
+  simp only [Top.top]
+  grind [Preconnected]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean]:
```suggestion
  aesop (add simp Preconnected)
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
   obtain ⟨T, hTG, hmin⟩ := {H : SimpleGraph V | H.Connected}.toFinite.exists_le_minimal h
   exact ⟨T, hTG, isTree_of_minimal_connected hmin⟩
 
+/--
+Adding an edge to an acyclic graph preserves acyclicity if the endpoints are not reachable.
+-/
+theorem isAcyclic_add_edge_iff_of_not_reachable
+    {G : SimpleGraph V} (x y : V) (hxy : ¬ G.Reachable x y) :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: We might as well use the `G` already available as a `variable`:
```suggestion
theorem isAcyclic_add_edge_iff_of_not_reachable (x y : V) (hxy : ¬ G.Reachable x y) :
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 4]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+    simpa using fun h => hxy h.reachable
+  have h_bridge : (G ⊔ fromEdgeSet {s(x,y)}).IsBridge s(x,y) := by
+    simpa [isBridge_iff, x_neq_y, h_add_remove]
+  intro u c hc
+  apply isBridge_iff_adj_and_forall_cycle_notMem.mp at h_bridge
+  let c' : G.Walk u u := Walk.transfer c G (by
+    intro e he
+    have eneq : e ≠ s(x,y) := fun h => h_bridge.2 c hc (h ▸ he)
+    simpa [eneq] using Walk.edges_subset_edgeSet c he
+  )
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Just style nits. The only one worth highlighting is that the pattern `apply my_lemma.mp` is almost always a synonym for `rw [my_lemma]`:
```suggestion
  rw [isBridge_iff_adj_and_forall_cycle_notMem] at h_bridge
  intro u c hc
  let c' : G.Walk u u := Walk.transfer c G (fun e he ↦ by
    have eneq : e ≠ s(x,y) := fun h => h_bridge.2 c hc (h ▸ he)
    simpa [eneq] using Walk.edges_subset_edgeSet c he)
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 5]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+  intro hc
+  rw [←ConnectedComponent.eq] at hc
+  suffices F.connectedComponentMk u' = s by
+    exact (hc ▸ this ▸ hv) ConnectedComponent.connectedComponentMk_mem
+  simp_rw [s, SetLike.coe, ConnectedComponent.supp_inj, ←ConnectedComponent.mem_supp_iff]
+  grind
+
+/-- An acyclic subgraph of `G` is maximal if it has the same reachability relation as `G`. -/
+lemma maximal_isAcyclic_of_reachable_eq {F : SimpleGraph V} (hF : F ≤ G ∧ F.IsAcyclic)
+    (h : F.Reachable = G.Reachable) : Maximal (fun H => H ≤ G ∧ H.IsAcyclic) F := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: We don't need to have both `maximal_isAcyclic_of_reachable_eq` and `maximal_isAcyclic_iff_reachable_eq` since the latter dominates the former so let's just collapse them together like this:
```suggestion
/-- A subgraph is maximal acyclic iff its reachability relation agrees with the larger graph. -/
theorem maximal_isAcyclic_iff_reachable_eq {F : SimpleGraph V} (hF : F ≤ G ∧ F.IsAcyclic) :
    Maximal (fun H => H ≤ G ∧ H.IsAcyclic) F ↔ F.Reachable = G.Reachable := by
  refine ⟨reachable_eq_of_maximal_isAcyclic F, fun h ↦ ?_⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 6]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+    (hT : T ≤ G) : Maximal (fun H => H ≤ G ∧ H.IsAcyclic) T ↔ T.IsTree := by
+  constructor
+  · intro h
+    have : Nonempty V := hG.nonempty
+    refine ⟨⟨fun u v => ?_⟩, h.1.2⟩
+    rw [G.reachable_eq_of_maximal_isAcyclic T h]
+    exact hG.preconnected u v
+  · grind [IsTree, Connected, maximal_isAcyclic_of_reachable_eq, preconnected_iff_reachable_eq_top]
+
+theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean:463]:
```suggestion
@[simp] theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 7]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+    Maximal IsAcyclic T ↔ T.IsTree := by
+  rw [←connected_top.maximal_le_isAcyclic_iff_isTree le_top]
+  grind [le_top, Maximal]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
  simp [← connected_top.maximal_le_isAcyclic_iff_isTree le_top]
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 8]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+/-- A subgraph of a connected graph is maximal acyclic iff it is a tree. -/
+theorem Connected.maximal_le_isAcyclic_iff_isTree {T : SimpleGraph V} (hG : G.Connected)
+    (hT : T ≤ G) : Maximal (fun H => H ≤ G ∧ H.IsAcyclic) T ↔ T.IsTree := by
+  constructor
+  · intro h
+    have : Nonempty V := hG.nonempty
+    refine ⟨⟨fun u v => ?_⟩, h.1.2⟩
+    rw [G.reachable_eq_of_maximal_isAcyclic T h]
+    exact hG.preconnected u v
+  · grind [IsTree, Connected, maximal_isAcyclic_of_reachable_eq, preconnected_iff_reachable_eq_top]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: What you have is probably fine but I worry that the call to `grind` is maybe a bit brittle so let's try:
```suggestion
  have : Nonempty V := hG.nonempty
  refine ⟨fun h ↦ ⟨⟨fun u v ↦ ?_⟩, h.1.2⟩, fun hT' ↦ ?_⟩
  · rw [G.reachable_eq_of_maximal_isAcyclic T h]
    exact hG.preconnected u v
  · rw [maximal_isAcyclic_iff_reachable_eq ⟨hT, hT'.IsAcyclic⟩]
    replace hT' : T.Reachable = ⊤ := by
      rw [← preconnected_iff_reachable_eq_top]
      exact hT'.isConnected.preconnected
    replace hG : G.Reachable = ⊤ := by
      rw [← preconnected_iff_reachable_eq_top]
      exact hG.preconnected
    rw [hT', hG]
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 9]
```diff
@@ -361,6 +361,115 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+      Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk, ne_eq, and_imp, F']
+      grind
+    · rw [le_iff_adj]
+      push_neg
+      refine ⟨u', v', ?_, ?_⟩
+      · simpa [F'] using Or.inr huv.ne
+      · intro hc
+        have : _ := ConnectedComponent.mem_supp_congr_adj (F.connectedComponentMk u) hc
+        grind
+  have : DecidableEq V := Classical.decEq V
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This looks redundant:
```suggestion
```

**Review by ocfnash — COMMENTED** [review]
Thanks, I think the proofs could be golfed a little, but I'll let you respond to my latest round of nitpicks first.

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 3 above)
Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: woops thank you

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 4 above)
Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: thank you! that makes sense :-)

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 10]
```diff
@@ -361,6 +361,113 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+      · intro hc
+        have : _ := ConnectedComponent.mem_supp_congr_adj (F.connectedComponentMk u) hc
+        grind
+  refine (isAcyclic_add_edge_iff_of_not_reachable u' v' ?_).mpr hF.2
+  intro hc
+  rw [←ConnectedComponent.eq] at hc
+  suffices F.connectedComponentMk u' = s by
+    exact (hc ▸ this ▸ hv) ConnectedComponent.connectedComponentMk_mem
+  simp_rw [s, SetLike.coe, ConnectedComponent.supp_inj, ←ConnectedComponent.mem_supp_iff]
+  grind
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: The following is a slight golf. I was not trying to make it shorter though: I was trying to make it slightly more idiomatic and readable. I think what I've got is still not great but is acceptable (as was yours already). Two minor points I highlight are:

- I've added various redundant type ascriptions (e.g., to the `obtain`s). These aid readability for a human.
- I've use the `ext` tactic rather than directly calling the underlying very low-level `funext`, `propext`

I also note that [Maximal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#Maximal) has an API including things like [Maximal.prop](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#Maximal.prop) and [Minimal.le_of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#Minimal.le_of_le). In theory we might be better off not unfolding and destructing `h` on the first line but I couldn't quite summon the motivation to try this :)

```suggestion
  obtain ⟨⟨hF : F ≤ G, hF' : F.IsAcyclic⟩, h⟩ := by simpa [Maximal] using h
  ext u v
  refine ⟨fun h ↦ h.mono hF, ?_⟩
  contrapose! h
  obtain ⟨⟨p : G.Walk u v⟩, h : ¬ F.Reachable u v⟩ := h
  let s : Set V := F.connectedComponentMk u
  have hus : u ∈ s := ConnectedComponent.connectedComponentMk_mem
  have hvs : v ∉ s := h ∘ (F.connectedComponentMk u).reachable_of_mem_supp hus
  obtain ⟨⟨⟨u', v'⟩, huv : G.Adj u' v'⟩, -, hu : u' ∈ s, hv : v' ∉ s⟩ :=
    p.exists_boundary_dart s hus hvs
  suffices (F ⊔ fromEdgeSet {s(u', v')}).IsAcyclic by
    refine ⟨F ⊔ fromEdgeSet {s(u', v')}, ?_, this, le_sup_left, ?_⟩
    · have : G.Adj v' u' := G.symm huv
      simp only [sup_le_iff, le_iff_adj, fromEdgeSet_adj, Set.mem_singleton_iff, Sym2.eq,
        Sym2.rel_iff'] at hF ⊢
      grind
    · rw [le_iff_adj]
      push_neg
      refine ⟨u', v', ?_, fun hc ↦ ?_⟩
      · simpa using Or.inr huv.ne
      · have := (F.connectedComponentMk u).mem_supp_congr_adj hc
        grind
  suffices ¬ F.Reachable u' v' by rwa [isAcyclic_add_edge_iff_of_not_reachable u' v' this]
  suffices F.connectedComponentMk u' = s by
    rw [← ConnectedComponent.eq]
    exact fun hc ↦ (hc ▸ this ▸ hv) ConnectedComponent.connectedComponentMk_mem
  simp_rw [s, SetLike.coe, ConnectedComponent.supp_inj, ← ConnectedComponent.mem_supp_iff]
  grind
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 11]
```diff
@@ -361,6 +361,113 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+
+/-- A subgraph is maximal acyclic iff its reachability relation agrees with the larger graph. -/
+theorem maximal_isAcyclic_iff_reachable_eq {F : SimpleGraph V} (hF : F ≤ G ∧ F.IsAcyclic) :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: We prefer to supply multiple named hypotheses in lemmas rather than a conjunction:
```suggestion
theorem maximal_isAcyclic_iff_reachable_eq {F : SimpleGraph V} (hF : F ≤ G) (hF' : F.IsAcyclic) :
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 12]
```diff
@@ -361,6 +361,113 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+  simp only [IsBridge, F_sdiff_eq] at h_bridge
+  cases e
+  case h u v =>
+    simp only [Sym2.lift_mk] at h_bridge
+    suffices G.Reachable u v by exact (h ▸ h_bridge.2) this
+    apply Reachable.mono hF'.2.1
+    apply Adj.reachable
+    simpa using he.1
+
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Let's cut this double blank line down to a single
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

**Comment by b-mehta** [comment]
Do you mind holding off on merging this, since I think it can be golfed quite a bit? But to prevent it stalling, let's say that if I haven't suggested something within 48 hours from now, it can be merged.

**Comment by thomaskwaring** [comment]
@b-mehta sure, no hurry from my end — thanks both for your time :-)

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 10 above)
Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: thanks again for this! i also had a go at using the `Maximal` api as you suggested

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 13]
```diff
@@ -361,6 +361,109 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
+  refine ⟨fun h ↦ h.anti le_sup_left, fun hG ↦ ?_⟩
+  have x_neq_y : x ≠ y := fun c => (c ▸ hxy) (Reachable.refl y)
+  have h_add_remove : (G ⊔ fromEdgeSet {s(x,y)}) \ fromEdgeSet {s(x,y)} = G := by
+    simpa using fun h => hxy h.reachable
+  have h_bridge : (G ⊔ fromEdgeSet {s(x,y)}).IsBridge s(x,y) := by
+    simpa [isBridge_iff, x_neq_y, h_add_remove]
+  rw [isBridge_iff_adj_and_forall_cycle_notMem] at h_bridge
+  intro u c hc
+  let c' : G.Walk u u := Walk.transfer c G (fun e he ↦ by
+    have eneq : e ≠ s(x,y) := fun h => h_bridge.2 c hc (h ▸ he)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    (G ⊔ fromEdgeSet {s(x, y)}).IsAcyclic ↔ IsAcyclic G := by
  refine ⟨fun h ↦ h.anti le_sup_left, fun hG ↦ ?_⟩
  have x_neq_y : x ≠ y := fun c => (c ▸ hxy) (Reachable.refl y)
  have h_add_remove : (G ⊔ fromEdgeSet {s(x, y)}) \ fromEdgeSet {s(x, y)} = G := by
    simpa using fun h => hxy h.reachable
  have h_bridge : (G ⊔ fromEdgeSet {s(x, y)}).IsBridge s(x, y) := by
    simpa [isBridge_iff, x_neq_y, h_add_remove]
  rw [isBridge_iff_adj_and_forall_cycle_notMem] at h_bridge
  intro u c hc
  let c' : G.Walk u u := Walk.transfer c G (fun e he ↦ by
    have eneq : e ≠ s(x, y) := fun h => h_bridge.2 c hc (h ▸ he)
```

Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: thanks!

**Comment by SnirBroshi** [comment]
> I think it can be golfed quite a bit

FWIW I've removed the controversial `reachabilitySet` from #30640, which has a short proof of `¬G.Reachable u v → G.IsAcyclic → G ⊔ fromEdgeSet {s(u, v)}).IsAcyclic` (unless you count the useful bridge lemmas it uses and then it's longer :)
(it also has a proof if "tree iff maximal acyclic" but I think that the generalizations in this PR are better)

**Comment by thomaskwaring** [comment]
@b-mehta i think i will merge this soon unless you'll have time to look at it? @SnirBroshi thanks for this, i think the interest of those extra lemmas is a separate question to this PR, so i think i'll leave it as is for the moment with the understanding that the proofs might change later :-)

**Comment by ocfnash** [comment]
Requeuing this as it looks like it failed due to a spurious CI hiccup.

bors merge
